US04954497
In anhydrous tetrahydrofuran (6 ml) was dissolved 4-bromoveratrol (700 mg). To the solution was added dropwise a 15% n-hexane solution of n-butyllithium (2.2 ml), while stirring under cooling at temperatures ranging from -60° C. to -70° C. under an atmosphere of nitrogen gas. The mixture was stirred at the same temperature range for 20 minutes, and there was added dropwise at temperatures of -70° C. or below a solution of 5-(4-chlorophenoxy)-2-cyanopyridine (500 mg) in dry tetrahydrofuran (6 ml). The mixture was stirred at the same temperature for 30 minutes, and there was added methanol (1 ml) (the temperature rose up to -65° C. from -73° C.), then the temperature of the mixture was slowly warmed to room temperature. To the reaction mixture was added silica gel (3 g), and there was then added water (0.5 ml), and the mixture was stirred at room temperature for 2 hours, and left standing overnight. Silica gel was filtered off, and the filtrate was concentrated. The concentrate was purified by means of a silica gel column chromatography [eluted with a mixture solvent of dichloromethane and ethyl acetate (10:1)] to obtain 5-(4-chloro-phenoxy)-2-(3,4-dimethoxybenzoyl)pyridine (240 mg) as colorless crystals, m.p. 145 to 147° C.

reactant | 4-bromoveratrol | 700 mg | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | n-hexane | CCCCCC | C6H14
reactant | n-butyllithium | 2.2 ml | C(CCC)[Li]
reactant | 5-(4-chlorophenoxy)-2-cyanopyridine | 500 mg | ClC1=CC=C(OC=2C=CC(=NC2)C#N)C=C1 | C12H7ClN2O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
solvent | methanol | 1 ml | CO | CH4O
product | 5-(4-chloro-phenoxy)-2-(3,4-dimethoxybenzoyl)pyridine | 240 mg | ClC1=CC=C(OC=2C=CC(=NC2)C(C2=CC(=C(C=C2)OC)OC)=O)C=C1 | C20H16ClNO4
